US05807859
A suspension of 200 mg of (10 RS)-10-acetamido-10-(4-phenylbutyl)-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one in 15 ml of 6N hydrochloric acid is refluxed for 2 hours. The reaction medium is cooled and filtered on a sinter funnel. The solid obtained is crystallized from 5 ml of ethanol. 85 mg of (10RS)-10-amino-10-(4-phenylbutyl)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride are thus obtained [1H NMR spectrum: (300 MHz, (CD3)2SO-d6 ; δ in ppm): 0.65 (mt, 2H: CH2); 1.38 (mt, 2H: CH2); 2.35 (mt, 2H: hetero-CH2); from 2.50 to 2.80 (mt, 2H: ArCH2); 6.95 (d, J=7.5 Hz, 2H: aromatic ortho H of the phenyl); from 7.00 to 7.20 (mt, 3H: aromatic meta and para H of the phenyl); 7.52 and 7.58 (2 t, J=8 Hz, 1H each: H 7 and H 8); 7.72 and 8.68 (2 broad s, 1H each: H of the imidazole); 7.92 and 8.02.(2 broad d, J=8 Hz), 1H each: H 6 and H 9); 9.48 (mult., 3H: NH2+Cl-); 12.72 (broad s, 1H: NH 5)].

reactant | (10 RS)-10-acetamido-10-(4-phenylbutyl)-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one | 200 mg | C(C)(=O)NC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CCCCC3=CC=CC=C3 | C25H24N4O2
reactant | hydrochloric acid | 6N, 15 ml | Cl | ClH
product | (10RS)-10-amino-10-(4-phenylbutyl)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride | 85 mg | Cl.NC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CCCCC3=CC=CC=C3 | InChI=1S/C23H22N4O.ClH/c24-23(13-7-6-10-16-8-2-1-3-9-16)18-12-5-4-11-17(18)19-20(23)27-15-14-25-21(27)22(28)26-19;/h1-5,8-9,11-12,14-15H,6-7,10,13,24H2,(H,26,28);1H
